US05576437
A solution of 4-cyano-2,6-dinitrotoluene (8.55 g) in concentrated hydrochloric acid (70 mL) and glacial acetic acid (10 mL) is treated with tin metal (granules, 14.66 g), which is added slowly so that the temperature does not exceed 50° C. The reaction is stirred at 50° C. for 2.5 hours, then poured into ice and basified to pH=11 with concentrated ammonium hydroxide. The products are extracted with ethyl acetate (5×300 mL). The combined extracts are dried over sodium sulfate and rotary evaporated. The residue is purified by flash chromatograpy on silica gel, eluting with 50% ethyl acetate/hexane to afford 4-cyano-2,6-diaminotoluene as a yellow solid.

reactant | 4-cyano-2,6-dinitrotoluene | 8.55 g | C(#N)C1=CC(=C(C(=C1)[N+](=O)[O-])C)[N+](=O)[O-] | C8H5N3O4
reactant | tin | 14.66 g | [Sn] | Sn
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | hydrochloric acid | 70 mL | Cl | ClH
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 4-cyano-2,6-diaminotoluene | C(#N)C1=CC(=C(C(=C1)N)C)N | C8H9N3
